US04835180
A solution of 58.6 g (0.19 mol) of 4-[(6-bromohexyl)amino]phenol from part b in about 400 mL of DMF was added dropwise to a slurry of 46.6 g (0.95 mol) of sodium cyanide in 370 mL of DMF in a 2 L flask at 70° C. over the course of two hours. Heating was continued for two hours. After cooling, the reaction was filtered and diluted with about 2 L of water and extracted twice with ethyl acetate. The ethyl acetate extracts were combined, washed three times with saturated sodium chloride solution, and dried over magnesium sulfate. The solution was stripped to a red-orange solid which was dissolved in warm ethyl acetate, treated with decolorizing carbon, cooled, and recrystallized by the addition of a small amount of hexane to yield 7-[(4-hydroxyphenyl)amino]heptanenitrile, mp 75°-76° C., in 53% yield.

reactant | 4-[(6-bromohexyl)amino]phenol | 0.19 mol, 58.6 g | BrCCCCCCNC1=CC=C(C=C1)O | C12H18BrNO
reactant | sodium cyanide | 0.95 mol, 46.6 g | [C-]#N.[Na+]
solvent | DMF | about 400 mL | CN(C)C=O | C3H7NO
solvent | DMF | 370 mL | CN(C)C=O | C3H7NO
product | 7-[(4-hydroxyphenyl)amino]heptanenitrile | 53% yield | OC1=CC=C(C=C1)NCCCCCCC#N | C13H18N2O
